US04882330
4-Chloro-1-(4-nitrophenoxy)-2-butanol
Utilizing the procedure of Preparation 16, 1,4-dichloro-2-butanol was reacted with 4-nitrophenol to give white title compound, m.p. 60°-63° C.

reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 4-Chloro-1-(4-nitrophenoxy)-2-butanol | ClCCC(COC1=CC=C(C=C1)[N+](=O)[O-])O | C10H12ClNO4
